US05354747
Ethyl 1-piperazinecarboxylate (77.3 g, 0.28 mole), 1-decanol methanesulfonate (77.3 g, 0.28 mole) from the condensation of 1-decanol with methane sulfonyl chloride, K2CO3 (39.0 g, 0.28 mole), and 500 mL of EtOH were combined and refluxed for 2 days under N2. After cooling to room temperature, the reaction was partitioned between water and Et2O. The organic layer was separated, washed 3 times with water, dried over Na2SO4 and stripped of all solvent under reduced pressure to yield the crude product oil. Chromatographic purification of the crude oil gave 53.4 g of ethyl 4-decyl-1-piperazinecarboxylate.

reactant | Ethyl 1-piperazinecarboxylate | 0.28 mole, 77.3 g | N1(CCNCC1)C(=O)OCC | C7H14N2O2
reactant | 1-decanol methanesulfonate | 0.28 mole, 77.3 g | CS(=O)(=O)OCCCCCCCCCC | C11H24O3S
reactant | 1-decanol | C(CCCCCCCCC)O | C10H22O
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | 0.28 mole, 39.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 500 mL | CCO | C2H6O
product | ethyl 4-decyl-1-piperazinecarboxylate | 53.4 g | C(CCCCCCCCC)N1CCN(CC1)C(=O)OCC | C17H34N2O2
